US06777417B2
Phosphorus oxychloride (9.2 g, 0.06 mol) was slowly added to 12 ml of dimethylformamid at 0° C. with stirring and the mixture stirred for 30 minutes. Dimethyl-[3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-amine ( 6.2 g, 0.03 mol) was dissolved in 10 ml of dimethylformamide and added to the mixture. The reaction was stirred for 2 hours at room temperature. The stirred mixture was cooled in an ice bath and water was slowly added followed by 10 N sodium hydroxide solution until pH was 10. The mixture was stirred at room temperature for 45 minutes and extracted with ethyl acetate. The ethyl acetate extract was washed with brine, dried over anhydrous sodium sulfate and concentrated to give 3-(3-dimethylamino-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (3.5 g, 50% yield).

reactant | Phosphorus oxychloride | 0.06 mol, 9.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Dimethyl-[3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-amine | 0.03 mol, 6.2 g | CN(CCCC1=CNC=2CCCCC12)C | C13H22N2
reactant | water | O | H2O
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamid | 12 ml | CN(C=O)C | C3H7NO
product | 3-(3-dimethylamino-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 3.5 g, 50% yield | CN(CCCC1=C(NC=2CCCCC12)C=O)C | C14H22N2O
